US08212041B2
A 150 mL sealed tube was charged with 4-bromo-2-(hydroxymethyl)-N-methylbenzamide (3.34 g, 13.7 mmol) and 1,3-dimethylimidazolidin-2-one (40.4 ml, 369 mmol). The solution was cooled to 0° C. and Isopropylmagnesium chloride (15.3 ml, 30.5 mmol) was added slowly. The tube was capped and the reaction mixture was stirred at room temperature for 30 minutes. This was recooled to 0° C. and N,N,N,N-tetramethylphosphorodiamidoyl chloride (2.64 ml, 17.8 mmol) was added in one portion; this mixture was stirred at room temperature for 4 hours. The tube was placed in a 150° C. oil bath for 1 hour. The mixture was then diluted with EtOAc (100 mL), then washed with 1M aqueous HCl. The aqueous layer was extracted with ethyl acetate (3×100 mL) and then the combined organics were washed with water (100 mL) and brine (100 mL), dried with MgSO4, filtered, then concentrated to give a yellow oil. This was purified by column chromatography, eluting with 1-4% MeOH/DCM to give 5-bromo-2-methylisoindolin-1-one (1.774 g, 57.3% yield) as a yellow solid.

reactant | 4-bromo-2-(hydroxymethyl)-N-methylbenzamide | 13.7 mmol, 3.34 g | BrC1=CC(=C(C(=O)NC)C=C1)CO | C9H10BrNO2
reactant | 1,3-dimethylimidazolidin-2-one | 369 mmol, 40.4 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | Isopropylmagnesium chloride | 30.5 mmol, 15.3 ml | C(C)(C)[Mg]Cl
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-2-methylisoindolin-1-one | 1.774 g, 57.3% yield | BrC=1C=C2CN(C(C2=CC1)=O)C | C9H8BrNO
